US07632850B2
11.1. 4′-(2-hydroxyethyl)-3-biphenylcarbonitrile
A mixture of 3 g (14.92 mmol) of 2-(4-bromophenyl)ethanol, 2.85 g (19.40 mmol) of 3-cyanophenylboronic acid, 5.15 g (37.30 mmol) of potassium carbonate, 4.81 g (14.92 mmol) of tetran-butylammonium bromide and 0.067 g (0.30 mmol) of palladium diacetate in 15 ml of water is heated at 100° C. under an argon atmosphere overnight. It is cooled to ambient temperature, diluted with water and extracted with ethyl acetate. The organic phase is dried over sodium sulphate and evaporated. It is subsequently purified by chromatography on silica gel, eluting with a 70/30 then 50/50 mixture of cyclohexane and ethyl acetate, to give 2.90 g of product in the form of an oil, which is used as it is in the following step.

reactant | 2-(4-bromophenyl)ethanol | 14.92 mmol, 3 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | 3-cyanophenylboronic acid | 19.40 mmol, 2.85 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | potassium carbonate | 37.30 mmol, 5.15 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetran-butylammonium bromide | 14.92 mmol, 4.81 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 15 ml | O | H2O
catalyst | palladium diacetate | 0.30 mmol, 0.067 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 4′-(2-hydroxyethyl)-3-biphenylcarbonitrile | 2.90 g | OCCC1=CC=C(C=C1)C1=CC(=CC=C1)C#N | C15H13NO
